US07521447B2
Step A: 1-Isobutyl-5-methoxy-1H-indazole:
A solution of 5-methoxy-1H-indazole (5.00 g, 33.7 mmol) in DMF (100 mL) was treated with K2CO3 (5.83 g, 42.2 mmol) and stirred at room temperature for 15 minutes. To this solution was added 1-bromo-2-methylpropane (5.09 g, 37.1 mmol) and the resulting mixture was heated to 110° C. for 18 hours. Another equivalent of 1-bromo-2-methyl-propane was added and the mixture continued to heat for 48 hours more. The mixture was concentrated under reduced pressure and dissolved in dichloromethane. The solution was washed with 1N HCl, filtered, and concentrated under reduced pressure. The residue was chromatographed on Biotage eluting with hexanes/ether (5:1) to afford 2.51 g of orange oil (36% yield).

reactant | 5-methoxy-1H-indazole | 33.7 mmol, 5.00 g | COC=1C=C2C=NNC2=CC1 | C8H8N2O
reactant | K2CO3 | 42.2 mmol, 5.83 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-2-methylpropane | 37.1 mmol, 5.09 g | BrCC(C)C | C4H9Br
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-Isobutyl-5-methoxy-1H-indazole | 2.51 g, 36% yield | C(C(C)C)N1N=CC2=CC(=CC=C12)OC | C12H16N2O
